US07612084B2
(3R)-3-[5-{2-[4-(2-aminoethyl)phenoxy]ethyl}-2-(benzyloxy)phenyl]-N,N-diisopropyl-3-phenylpropan-1-amine bis hydrochloride salt
tert-butyl{2-[4-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}carbamate (Preparation 41, 3.4 g, 5.1 mmol) was dissolved in dioxan (20 ml) and treated with hydrochloric acid (4M in dioxan, 26 ml). After stirring for 4 hours at room temperature the solvent was removed in vacuo. The residue was azeotroped twice from dichloromethane to yield the title compound as a brown solid, 3.

reactant | tert-butyl{2-[4-(2-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}ethoxy)phenyl]ethyl}carbamate | 5.1 mmol, 3.4 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OCCC1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)=O | C43H56N2O4
reactant | hydrochloric acid | 4M, 26 ml | Cl | ClH
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | (3R)-3-[5-{2-[4-(2-aminoethyl)phenoxy]ethyl}-2-(benzyloxy)phenyl]-N,N-diisopropyl-3-phenylpropan-1-amine bis hydrochloride salt | Cl.Cl.NCCC1=CC=C(OCCC=2C=CC(=C(C2)[C@H](CCN(C(C)C)C(C)C)C2=CC=CC=C2)OCC2=CC=CC=C2)C=C1 | InChI=1S/C38H48N2O2.2ClH/c1-29(2)40(30(3)4)25-22-36(34-13-9-6-10-14-34)37-27-32(17-20-38(37)42-28-33-11-7-5-8-12-33)23-26-41-35-18-15-31(16-19-35)21-24-39;;/h5-20,27,29-30,36H,21-26,28,39H2,1-4H3;2*1H/t36-;;/m1../s1
